US08536175B2
Step 160.2: 1-Benzyl-2-nitro-1H-imidazole
Benzyl chloride (1.8 mL, 15.4 mmol, 1.2 equiv) was added to a solution of 2-nitroimidazole (1.45 g, 12.8 mmol) and triethylamine (3.6 mL, 25.7 mmol, 2 equiv) in DCM (40 mL). The reaction mixture was stirred at reflux for 72 h, allowed to cool to rt, diluted with DCM, washed with H2O and brine, dried (sodium sulfate), filtered and concentrated. The residue was purified by silica gel column chromatography (Hex/EtOAc, 7:3) to afford 1.31 g of the title compound as a white solid: ES-MS: 204.0 [M+H]+; tR=3.72 min (System 1); TLC: Rf=0.22 (Hex/EtOAc, 7:3).

reactant | Benzyl chloride | 15.4 mmol, 1.8 mL, 1.2 equiv | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 2-nitroimidazole | 12.8 mmol, 1.45 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | triethylamine | 25.7 mmol, 3.6 mL, 2 equiv | C(C)N(CC)CC | C6H15N
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
product | 1-Benzyl-2-nitro-1H-imidazole | 1.31 g | C(C1=CC=CC=C1)N1C(=NC=C1)[N+](=O)[O-] | C10H9N3O2
